US09127015B2
Preparation of the Ethyl 3-amino-4,5-dihydro-1H-pyrazolo[4,3-g]indolizine-8-carboxylate (I, Wherein n is 0, R1, R2 and R4 are Hydrogen, and R3 is —O—CH2—CH3)
To ethyl 7-cyano-8-oxo-5,6,7,8-tetrahydroindolizine-2-carboxylate (12 g, 52 mmol) in ethanol a solution of hydrazine monohydrate (6.5 g, 130 mmol) and acetic acid (9 g, 150 mmol) was added. The reaction was refluxed for 62 hours and concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with water and NH3. The organic phase was dried on Na2SO4. 10 g of a pale yellow solid were obtained (yield 78%).

reactant | ethyl 7-cyano-8-oxo-5,6,7,8-tetrahydroindolizine-2-carboxylate | 52 mmol, 12 g | C(#N)C1CCN2C=C(C=C2C1=O)C(=O)OCC | C12H12N2O3
reactant | hydrazine monohydrate | 130 mmol, 6.5 g | O.NN
reactant | acetic acid | 150 mmol, 9 g | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 3-amino-4,5-dihydro-1H-pyrazolo[4,3-g]indolizine-8-carboxylate | 10 g, yield 78% | NC1=NNC2=C1CCN1C=C(C=C21)C(=O)OCC | C12H14N4O2
